US04866089
Preparation of 5-methoxy-7-sec. butoxy-2,2-dimethyl-2H-chromene
In a mixture of 60 ml of tetrahydrofuran and 40 ml of methanol 5.6 g (20 millimoles) of 5-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 1.5 g (40 millimoles) of sodium tetrahydroborate are added in small portions and the reaction mixture is heated to boiling for 2 hours. The reaction mixture is worked up according to Example 31. The product is purified by column chromatography. Thus 4.4 g of the desired compound are obtained in the form of a light yellow oil, yield 85%.

reactant | methanol | 20 millimoles, 40 ml, 5.6 g | CO | CH4O
reactant | 5-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | COC1=C2C(CC(OC2=CC(=C1)OC(C)CC)(C)C)=O | C16H22O4
reactant | sodium tetrahydroborate | 40 millimoles, 1.5 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-methoxy-7-sec. butoxy-2,2-dimethyl-2H-chromene | 4.4 g, yield 85% | COC1=C2C=CC(OC2=CC(=C1)OC(C)CC)(C)C | C16H22O3
